US07157487B2
In methanol (50 ml), 3-formyl-1-methylindole (796 mg, 5.0 mmol), methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate (1.0 g, 5.0 mmol) and Molecular Sieves 4A (10 g) were stirred at room temperature for 5 hours and then, at 70° C. for 3 hours. The reaction mixture was cooled to room temperature and iodobenzene diacetate (5.0 mmol) was added thereto. After stirring at room temperature for 14 hours, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (3/1) eluate fractions, methyl 7-fluoro-2-(1-methyl-3-indolyl)-6-benzoxazolylacetate (860 mg, including impurities) was obtained as a pale brown solid. The compound was provided for the subsequent reaction without further purification.

reactant | 3-formyl-1-methylindole | 5.0 mmol, 796 mg | C(=O)C1=CN(C2=CC=CC=C12)C | C10H9NO
reactant | methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate | 5.0 mmol, 1.0 g | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
reactant | iodobenzene diacetate | 5.0 mmol | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | methanol | 50 ml | CO | CH4O
product | methyl 7-fluoro-2-(1-methyl-3-indolyl)-6-benzoxazolylacetate | 860 mg | FC1=C(C=CC=2N=C(OC21)C2=CN(C1=CC=CC=C21)C)CC(=O)OC | C19H15FN2O3
